US05681968
Preparation of 4-hydroxy-5-(trifluoromethyl)dithiocoumarin
A mixture of 2'-fluoro-6'-(trifluoro-methyl)acetophenone (3.0 g, 14.5 mmol), carbon disulfide (1.5 mL, 26.7 mmol) and dimethylformamide (DMF) (12.5 mL) in benzene at 15°-25° C. is treated portion-wise with a 60% dispersion of sodium hydride in mineral oil (1.15 g, 28.8 mmol NaH) over a 1.5 hour period, stirred for 0.5 hour, heated at 125° C. for 1 hour, cooled to room temperature and diluted with water. The resultant mixture is treated with acetic acid and extracted with ether. The aqueous phase is acidified to pH 3 with HCl and extracted with ethyl acetate. The ethyl acetate extracts are combined, washed sequentially with water and brine, dried over MgSO4 and concentrated in vacuo to give an orange oil residue. The residue is crystallized from diethyl ether/hexanes to give the title product as a white solid, 3.0 g (79% y), mp 142°-144° C., identified by IR, 1HNMR, 19FNMR and mass spectral analyses.

reactant | 2'-fluoro-6'-(trifluoro-methyl)acetophenone | 14.5 mmol, 3.0 g | FC1=C(C(=CC=C1)C(F)(F)F)C(C)=O | C9H6F4O
reactant | carbon disulfide | 26.7 mmol, 1.5 mL | C(=S)=S | CS2
reactant | dimethylformamide | 12.5 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | NaH | 28.8 mmol, 1.15 g | [H-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-hydroxy-5-(trifluoromethyl)dithiocoumarin | OC1=CC(SC2=CC=CC(=C12)C(F)(F)F)=S | C10H5F3OS2
